US08871943B2
To a mixture of isopropyl 4,5-dichloro-6-(4-methoxyphenyl)picolinate (5.25 g, 15.4 mmol) in tetrahydrofuran (40 mL) and water (10 mL) was added potassium hydroxide (1.26 g, 22.4 mmol). The reaction mixture was allowed to stir at room temperature for 12 h. After 1 hour of stirring, solids precipitated from the mixture. HCl (aq) (2N, 25 mL) was added to the reaction mixture, and it formed a clear biphasic mixture. The mixture was added to water (75 mL) in a reparatory funnel and extracted with EtOAc (2×75 mL). The combined organic layers were washed with water (25 mL) and saturated NaCl (50 mL) and then concentrated under reduced pressure to provide 4.57 g (99% yield) of 4,5-dichloro-6-(4-methoxyphenyl)picolinic acid as a white solid. 1H NMR (400 MHz, CDCl3) δ 8.23 (s, 1H), 7.72-7.64 (m, 2H), 7.07-6.99 (m, 2H), 3.89 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 162.78, 161.05, 157.26, 146.30, 143.76, 133.54, 130.98, 128.72, 123.45, 113.77, 55.48; mp=164-181° C.

reactant | isopropyl 4,5-dichloro-6-(4-methoxyphenyl)picolinate | 15.4 mmol, 5.25 g | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)OC)C(=O)OC(C)C | C16H15Cl2NO3
reactant | potassium hydroxide | 22.4 mmol, 1.26 g | [OH-].[K+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | 4,5-dichloro-6-(4-methoxyphenyl)picolinic acid | 4.57 g, 99% yield | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)OC)C(=O)O | C13H9Cl2NO3
